2143-04-22 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2143-4-21**] 08:42 AM
 ULTRASOUND - At [**2143-4-21**] 02:00 PM
   - Renal US: Prelim No hydro
   - USD RLE: Prelim No DVT
   - Continued hyponatremia yesterday in face of increasing lasix boluses
   20 -> 40mg IV.  Started lasix gtt with goo UOP of > 100cc/hr
   thereafter.
   - CT Head for new facial droop not noted previously by family
   - KUB for nausea and constipation, no bowel dilation (supine film only
   but no clear air fluid levels)
   - Changed pain meds to vicodin with 2g tylenol per day restriction
   Allergies:
   Hydrochlorothiazide
   hyponatremia/na
   Zoloft (Oral) (Sertraline Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2143-4-21**] 06:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-4-22**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 95 (66 - 101) bpm
   BP: 168/81(102) {119/55(72) - 168/95(102)} mmHg
   RR: 15 (7 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,313 mL
                                                                    589 mL
   PO:
                                                                     60 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,013 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    940 mL
   Urine:
                                                                  1,180 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.54/29/69/22/2
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, unable to examine posteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   11.8 g/dL
   118 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   46 mg/dL
   89 mEq/L
   121 mEq/L
   33.7 %
   13.6 K/uL
        [image002.jpg]
                             [**2143-4-21**]  12:58 AM
                             [**2143-4-21**]  04:50 AM
                             [**2143-4-21**]  04:25 PM
                             [**2143-4-21**]  09:47 PM
                             [**2143-4-22**]  04:36 AM
                             [**2143-4-22**]  04:52 AM
   WBC
   12.5
   13.6
   Hct
   36.5
   33.7
   Plt
   163
   144
   Cr
   1.5
   1.5
   1.3
   1.3
   1.2
   TropT
   0.03
   0.03
   TCO2
   26
   Glucose
   130
   122
   105
   120
   118
   Other labs: PT / PTT / INR:14.4/29.6/1.3, CK / CKMB /
   Troponin-T:27/2/0.03, ALT / AST:28/55, Alk Phos / T Bili:161/0.4,
   Amylase / Lipase:27/13, Albumin:2.9 g/dL, LDH:347 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.8 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR: One portable view. Comparison with the previous study
   done [**2143-4-20**]. The lung
   apices are not included. Bilateral diffuse reticulonodular infiltrates
   are
   again demonstrated. A focal area of increased density at the right base
   persists. The costophrenic sulci are blunted as before. Mediastinal
   structures are unchanged. There is no definite interval change.
   IMPRESSION: Limited study demonstrating no significant change.
   --------------------------------
   KUB: Single supine view shows non-obstructive bowel gas pattern.
   Reticulonodular
   opacities at the lung bases. Calcified granuloma projecting over left
   pelvis.
   Upper portion of pessary projects over lower pelvis. Calcifications
   along
   aorta. Degenerative changes along spine. -ALee
   ---------------------------------
   Microbiology: BCx: NGTD
   UCx: NGTD
   Urine Legionella: Negative
   Assessment and Plan
   72F with metastatic ovarian and pancreatic cancer with lung involvement
   with recent admission for CAP, who is brought in by family for concerns
   of confusion, lethargy, DOE, poor PO intake and found to have
   hyponatremia.
   Hyponatremia: Likely due to free water retention from pre-renal state.
   Difficult to assess volume status in this patient, but patient with CXR
   c/w edema, elevated BNP, b/l LE Edema and difficulty lying flat due to
   SOB suggesting hypervolemic state and warrants diuresis.  However, JVP
   not impressive, and skin dry with collapsed veins.  Made urine w/ lasix
   yesterday but with no improvement in serum sodium yesterday after 2
   doses of IV bolus lasix.  Started lasix gtt overnight with
   improvement.  ? component of SIADH in this patient with malignancy.
   -          continue lasix gtt with goal of increase in serum sodium of
   approximately 0.5 meq/hr.  Target Serum Sodium of about 130-135 meq,
   fluid restriction.
   -          Repeat urine lytes today.
   -          Q4-6 hour sodiums while correcting.
   -          Goal net out approximately 1L per day, as tolerated by
   sodium.
   .
   ARF: Picture consistent with pre-renal picture.  Improving with lasix
   suggesting severe edema/poor forward flow from CHF.
   1.        Continue to follow Creatinine.
   2.        Renal USD: No hydro.
   .
   CAD: started ASA and will continue Statin.  Decrease asa to 81mg
   today.  Patient with new q waves in V1-V3 and TWI in V1-3 when compared
   to old, suggesting that she may have had a silent infarct.  Will
   continue to cycle enzymes and obtain another ECHO in the am.
   - Enzymes flat, awaiting TTE.
   .
   HTN: Patient on valsartan, nifedipine, lopressor. Patient currently
   normotensive and will hold BB, [**Last Name (un) 239**] & CCB given pulmonary overload. BNP
   > 5000, EF 75% on recent ECHO.  Perhaps there are new wall motion
   abnormalities that aren't allowing optimal cardiac output, thus causing
   a pre-renal picture.  Will repeat ECHO. CXR in am.  Patient may have
   new diastolic dysfunction requiring lasix.  If patient does require
   lasix, she may benefit from a lasix gtt.
   - At this time would not restart at home BP regimen given ARF,
   impression of decompensated CHF.  Would add back afterload reducing
   [**Doctor Last Name **] first if possible (nifedipine or [**Last Name (un) 239**]) -> will start hydralazine
   today and if tolerated will restart ACE tomorrow as tolerated by Cr.
   .
   RHYTHM: will maintain on telemetry, otherwise no issues
   Oncology: Hx of metastatic ovarian and pancreatic cancer metastatic to
   liver and lung.  This may be contributing to dyspnea.
   1.        Pain control as needed
   2.        Will talk to Social Work regarding goals of care
   3.        Pallative care consult regarding Hospice options -> patient
   and family may be indicating they want hospice, but unclear whether
   entire family is in agreement.
   .
   Leuckocytosis/CXR infiltrate: Unclear etiology at this time.  Patient
   without documented fevers and she was recently treated with abx for
   CAP.  Will trend temperature curve and will treat empirically for CAP
   if warranted.
   1.        Repeat CXR inam
   2.        CIS
   Constipation: [**Month (only) 60**] be due to narcotics that the patinet is taking for
   pain control.  Patient without nausea or vomiting, but if this ensues,
   would quickly entertain diagnosis of obstruction due to underlying
   disease.  Had nausea overnight -> KUB unrevealing.  Still no BM.
   1.        Aggressive bowel regimen, if becomes distended would drop NG
   tube, and consider surgery consult.
   Depression: Will hold Paxil at this time.
   FEN: Fluid restriction of 1200ml per day
   Access: PIVx1, art sticks for labs, would consider A-line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-4-21**] 12:06 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-04-22 09:04:00 Physician Attending Progress Note
Chief Complaint: hyponatremia, volume overlaod, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2143-4-21**] 08:42 AM
 ULTRASOUND - At [**2143-4-21**] 02:00 PM:    no DVT
   Nausea KUB - no bowel dilation
   Started on Lasix drip
   Allergies:
   Hydrochlorothiazide
   hyponatremia/na
   Zoloft (Oral) (Sertraline Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2143-4-21**] 06:25 PM
   Famotidine (Pepcid) - [**2143-4-22**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2143-4-22**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-4-22**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 90 (66 - 101) bpm
   BP: 168/81(102) {119/55(73) - 168/95(102)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,313 mL
                                                                    617 mL
   PO:
                                                                     60 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,013 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                  1,115 mL
   Urine:
                                                                  1,180 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.54/29/69/22/2
   Physical Examination
   Gen: sitting up in bed, breathing comfortably
   CV: tachy RR
   Chest: bibasilar rales, no wheezes
   Labs / Radiology
   11.8 g/dL
   144 K/uL
   118 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   46 mg/dL
   89 mEq/L
   121 mEq/L
   33.7 %
   13.6 K/uL
        [image002.jpg]
                             [**2143-4-21**]  12:58 AM
                             [**2143-4-21**]  04:50 AM
                             [**2143-4-21**]  04:25 PM
                             [**2143-4-21**]  09:47 PM
                             [**2143-4-22**]  04:36 AM
                             [**2143-4-22**]  04:52 AM
   WBC
   12.5
   13.6
   Hct
   36.5
   33.7
   Plt
   163
   144
   Cr
   1.5
   1.5
   1.3
   1.3
   1.2
   TropT
   0.03
   0.03
   TCO2
   26
   Glucose
   130
   122
   105
   120
   118
   Other labs: PT / PTT / INR:14.4/29.6/1.3, CK / CKMB /
   Troponin-T:27/2/0.03, ALT / AST:45/102, Alk Phos / T Bili:242/0.5,
   Amylase / Lipase:27/13, Albumin:2.8 g/dL, LDH:400 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.8 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: urine lytes
   urea 284, fena 15%
   uosm 287
   AB6 7.54/29/69
   Assessment and Plan
   1.       Pericardial effusion: new finding on Echo this AM, 1.5-2cm
   with RV collapse consistent with tamponade. Pulsus is 10 mmHg. Stat
   cardiolgy consultatin called and plan for possibel cath lab for drainge
   in next few hours. This will be complicated by the fact that she may
   not be able to lie flat for RHC so options are sitting upright for
   pericadial drain without getting RHC versus intubation (which itself
   could have sig. deliterious effect on hemodynamics requiring urgent
   CVL, pressors, etc.)
   2.       Hyponatremia:  Likely due to heart failure
 had been on lasix
   gtts previously but d/c after tamponade seen on Echo this was held.
   Will need repeat level this afternoon.
   3. Acute Renal Failure:  [**Month (only) 60**] be due to decompensated heart failure.
   Cr had improved with diuresis
 now will need to monitor after
   intervention on pericardial effussion.
   4. Metastatic Pancreatic CA:  No therapeutic options
   5. LE swelling:  Needs bilat LENIs
 done awiating final read
   6. Constipation: bowel reg, serial exams, KUB reassuring
   7. Will get palliative care consult.
   ICU Care
   Nutrition: trying to encourage po food, fluid restrict to 1.5 L
   Glycemic Control:  prn
   Lines:
   18 Gauge - [**2143-4-21**] 12:06 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: h2 blocker if no po
   Communication:  with pt and daughter
   [**Name (NI) 66**] status: Full code
   Disposition : ICU pending mamagement of pericardial eff. Early
   tamponade
   Total time spent: 40